US07851071B2
(2) Synthesis of 2-[4-(10-naphthalene-2-yl-anthracene-9-yl)-phenyl]-1-phenyl-1H-benzimidazole (Compound (1-7))
Dissolving 4.0 g (11 mmol) of 2-(4-bromophenyl)-1-phenyl-1H-benzimidazole, 4.0 g (11 mmol) of 10-naphthalene-2-yl-anthracene-9-boronic acid and 0.27 g of tetrakis (triphenylphosphine) palladium into 40 milliliter of 1,2-dimethoxyethane, adding 18 milliliter of 2.0M sodium carbonate aqueous solution, the resultant suspension was refluxed with heating for 7 hours. After completion of the reaction, separation with filtration was carried out and resultant crystals were washed with water and methanol, thereby obtaining 5.1 g of yellowish white solids (yield: 78%). As a result of mass spectrum (MS) analysis, it was recognized that the yellowish white solids were identified as the aimed substance and that m/e=572 for molecular weight of 572.23.

reactant | 2-(4-bromophenyl)-1-phenyl-1H-benzimidazole | 11 mmol, 4.0 g | BrC1=CC=C(C=C1)C1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C19H13BrN2
reactant | 10-naphthalene-2-yl-anthracene-9-boronic acid | 11 mmol, 4.0 g | C1=C(C=CC2=CC=CC=C12)C1=C2C=CC=CC2=C(C2=CC=CC=C12)B(O)O | C24H17BO2
reactant | sodium carbonate | 2.0M, 18 milliliter | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis (triphenylphosphine) palladium | 0.27 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | 1,2-dimethoxyethane | 40 milliliter | COCCOC | C4H10O2
product | 2-[4-(10-naphthalene-2-yl-anthracene-9-yl)-phenyl]-1-phenyl-1H-benzimidazole | 5.1 g, yield: 78% | C1=C(C=CC2=CC=CC=C12)C1=C2C=CC=CC2=C(C2=CC=CC=C12)C1=CC=C(C=C1)C1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C43H28N2
